US05454977
4.1 g (20 mmol) of 4-n-propylcyclohexyl bromide was dropped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain Grignard reagent. This solution was then added to a mixture of 3.0 g (22 mmol) of zinc chloride and 10 ml of THF to obtain the organozinc reagent. This reagent was then dropped into a 50 ml THF solution of 4.7 g (20 mmol) of 4-(4-chloro-4-silacyclohexyl) benzonitrile to obtain 4-(4-(trans-4-n-propylcyclohexyl)-4-silacyclohexyl) benzonitrile. The silacyclohexane rings of this product were a mixture of trans and cis isomers. They were separated by means of chromatography to obtain 5.4 g of the trans isomer (yield 83%).

reactant | 4-(4-chloro-4-silacyclohexyl) benzonitrile | 20 mmol, 4.7 g | Cl[SiH]1CCC(CC1)C1=CC=C(C#N)C=C1 | C12H14ClNSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(4-(trans-4-n-propylcyclohexyl)-4-silacyclohexyl) benzonitrile | yield 83% | C(CC)[C@@H]1CC[C@H](CC1)[SiH]1CCC(CC1)C1=CC=C(C#N)C=C1 | C21H31NSi
